US07566712B2
Combine a mixture of 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine (47 mg, 1 mmol), tetrahydrofuran (1 mL), and a 21% solution of sodium methoxide in MeOH (0.5 mL). Let the reaction stir at 60° C. for 16 hours. Evaporate the mixture, add water (5 mL), and extract twice with EtOAc (5 mL each). Combine the organic layers, dry (Na2SO4), and purify by preparative TLC (8:1 hexanes/EtOAc) to obtain 4-(3-chloro-4-fluoro-phenyl)-2-methoxy-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine.

reactant | 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | 1 mmol, 47 mg | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C20H15Cl2F4N5
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | sodium methoxide | C[O-].[Na+]
solvent | MeOH | 0.5 mL | CO | CH4O
product | 4-(3-chloro-4-fluoro-phenyl)-2-methoxy-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)OC | C21H18ClF4N5O
